US05654316
N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide
N-(4-Chlorophenyl)-beta-(2-hydroxyethyl)-N-methyl-benzenepropanamide (1.25 g) in CH2Cl2 (25 mL) was cooled to -5° to -10° C. and treated sequentially with Et3N (0.497 g), and methanesulfonyl chloride (0.563 g). After two hours the reaction mixture was washed with water (3×25 mL), sat. NaHCO3 (20 mL) and the organic layer separated, dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound (1.44 g).

reactant | N-(4-Chlorophenyl)-beta-(2-hydroxyethyl)-N-methyl-benzenepropanamide | 1.25 g | ClC1=CC=C(C=C1)N(C(CC(C1=CC=CC=C1)CCO)=O)C | C18H20ClNO2
reactant | Et3N | 0.497 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.563 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorophenyl)-beta-(2-methanesulfonyloxyethyl)-N-methyl-benzenepropanamide | 1.44 g | ClC1=CC=C(C=C1)N(C(CC(C1=CC=CC=C1)CCOS(=O)(=O)C)=O)C | C19H22ClNO4S
